US08168658B2
Step A: Tert-butyl 4-{1-[(diphenylmethylene)amino]-2-ethoxy-2-oxoethyl}benzoate.
Tert-butyl 4-bromobenzoate (10.3 g, 40.1 mmol), ethyl N-(diphenylmethylene)glycinate (14.99 g, 56.1 mmol), potassium phosphate (25.5 g, 120 mmol) and bis(tri-t-butylphosphine)palladium(0) (0.409 g, 0.801 mmol) were stirred in toluene (120 mL) at 100° C. under nitrogen for 3 days. Room temperature was attained and the mixture filtered through Celite and concentrated in vacuo. The residue was purified by MPLC to give the desired product as a yellow oil. 1H NMR (DMSO-d6, 600 MHz) δ 7.86 (d, J=7.8 Hz, 2H), 7.58 (m, 2H), 7.51 (m, 3H), 7.48 (d, J=7.8 Hz, 2H), 7.45 (m, 1H), 7.41 (t, J=7.5 Hz, 2H), 7.08 (m, 1H), 5.08 (s, 1H), 4.00 (m, 2H), 1.51 (s, 9H), 1.05 (t, J=6.9 Hz, 3H).

reactant | Tert-butyl 4-bromobenzoate | 40.1 mmol, 10.3 g | BrC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H13BrO2
reactant | ethyl N-(diphenylmethylene)glycinate | 56.1 mmol, 14.99 g | C1(=CC=CC=C1)C(=NCC(=O)OCC)C1=CC=CC=C1 | C17H17NO2
reactant | potassium phosphate | 120 mmol, 25.5 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
catalyst | bis(tri-t-butylphosphine)palladium(0) | 0.801 mmol, 0.409 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | Tert-butyl 4-{1-[(diphenylmethylene)amino]-2-ethoxy-2-oxoethyl}benzoate | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC(C(=O)OCC)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C28H29NO4
